US08729102B2
E) 1-(2-Bromo-4-(methoxymethoxy)phenyl)-2-(5-(triisopropylsilyloxy)pyridin-2-yl)propan-2-ol
To a solution of 2-bromo-5-(triisopropylsilyloxy)pyridine (26.6 g) in ether (80 mL) at −78° C. was added n-butyllithium (2.5 M in hexane, 32.2 mL) dropwise. After being stirred at the same temperature for 10 min, a solution of 1-(2-bromo-4-(methoxymethoxy)phenyl)propan-2-one (11 g) in diethylether (40 mL) was added dropwise. The mixture was stirred at −78° C. for 5 hr, and poured into iced saturated ammonium chloride and extracted with ethyl acetate. The combined organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (petroleum ether/ethyl acetate) to afford the title compound (9.6 g).

reactant | 2-bromo-5-(triisopropylsilyloxy)pyridine | 26.6 g | BrC1=NC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C14H24BrNOSi
reactant | n-butyllithium | 2.5 M, 32.2 mL | C(CCC)[Li]
reactant | 1-(2-bromo-4-(methoxymethoxy)phenyl)propan-2-one | 11 g | BrC1=C(C=CC(=C1)OCOC)CC(C)=O | C11H13BrO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | diethylether | 40 mL | C(C)OCC | C4H10O
product | 1-(2-Bromo-4-(methoxymethoxy)phenyl)-2-(5-(triisopropylsilyloxy)pyridin-2-yl)propan-2-ol | 9.6 g | BrC1=C(C=CC(=C1)OCOC)CC(C)(O)C1=NC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C25H38BrNO4Si
